US07714126B2
Preparation of methyl-(3-methyl-butyl)-(5-nitro-pyridin-2-yl)-amine
2-Chloro-5-nitropyridine (158 mg, 1 mmol), N-methylisoamylamine (101 mg, 1 mmol), and finely ground potassium carbonate (419 mg, 3 mmol) were heated to 80° C. in 10 mL anhydrous DMF for 3.5 hrs. The mixture was diluted with EtOAc, extracted with H2O and dried over MgSO4. The EtOAc layer was filtered, evaporated to dryness to yield 220 mg. ES-MS calcd for C11H17N3O2 (m/e) 223.28, obsd 224.1 (M+H).

reactant | 2-Chloro-5-nitropyridine | 1 mmol, 158 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | N-methylisoamylamine | 1 mmol, 101 mg | CNCCC(C)C | C6H15N
reactant | potassium carbonate | 3 mmol, 419 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl-(3-methyl-butyl)-(5-nitro-pyridin-2-yl)-amine | CN(C1=NC=C(C=C1)[N+](=O)[O-])CCC(C)C | C11H17N3O2
